US09371290B2
Synthesis of 2-phenyl-5-phenylsulfanyl-6-(1H-1,2,4-triazol-3-yl)-3(2H)-pyridazinone (compound 16)
Preparation of N,N-dimethyl-N′-[(6-oxo-1-phenyl-4-phenylsulfanyl-1,6-dihydropyridazin-3-yl)carbonyl]formamidine: A mixture of 6-oxo-1-phenyl-4-phenylsulfanyl-1,6-dihydropyridazine-3-carboxamide (193 mg, 0.6 mmol) and N,N-dimethylformamide dimethyl acetal (1 mL) was stirred at 120° C. for 1 h and then evaporated in vacuo. The residue was crystallized on treatment with Et2O (10 mL) to yield the desired product as a white crystalline substance (196 mg, 88%).

reactant | N,N-dimethyl-N′-[(6-oxo-1-phenyl-4-phenylsulfanyl-1,6-dihydropyridazin-3-yl)carbonyl]formamidine | CN(C=NC(=O)C1=NN(C(C=C1SC1=CC=CC=C1)=O)C1=CC=CC=C1)C | C20H18N4O2S
reactant | 6-oxo-1-phenyl-4-phenylsulfanyl-1,6-dihydropyridazine-3-carboxamide | 0.6 mmol, 193 mg | O=C1C=C(C(=NN1C1=CC=CC=C1)C(=O)N)SC1=CC=CC=C1 | C17H13N3O2S
reactant | N,N-dimethylformamide dimethyl acetal | 1 mL | COC(N(C)C)OC | C5H13NO2
product | 2-phenyl-5-phenylsulfanyl-6-(1H-1,2,4-triazol-3-yl)-3(2H)-pyridazinone | C1(=CC=CC=C1)N1N=C(C(=CC1=O)SC1=CC=CC=C1)C1=NNC=N1 | C18H13N5OS
